Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Gadolinium-Containing Agents
 
Attending: ___.
 
Chief Complaint:
Supraventricular tachycardia, pulmonary embolism
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of BPH, aspirin induced GI bleed, 
hearing loss, seizure disorder who presents with palpitations, 
found to have pulmonary embolism. The patient was getting of the 
subway (T train) when he felt an acute onset of palpitations. It 
felt like his heart was racing and he became lightheaded. He 
called EMS on his cell phone and they found him to be in a 
narrow complex supraventricular tachycardia with HR 175. The 
patient was given adenosine 6mg X1 and his heart rate 
regularized to the ___ he became asympomatic. Denied fevers, 
chills, chest pain, shortness of breath, nausea/vomiting, 
abdominal pain, leg swelling or pain (beyond baseline trace RLE 
edema around ankles).  
.  
In the ED, the patient was found to be persistently hypoxia 
(relative) at 92% on RA. Initial VS were T97.6, HR85, BP158/90, 
RR16, 100% on 12L nonrebreather. Thus, DDimer was checked and 
found to be elevated at 842. CTA was performed confirming a LLL 
subsegmental pulmonary embolism. Other labs were within normal 
limits (Chem 7, CBC, INR). CXR also within normal limits. 
Cardiology was consulted initially and plan is for outpatient 
follow-up for his supraventricular tachycardia. The patient was 
started on heparin gtt with bolus and admitted to Medicine. Upon 
transfer, VS T98.0, HR71, RR13, BP133/82, 94% on RA.  
 
Currently, patient resting comfortably in bed with supplemental 
oxygen, eating a lunchbox.  

 
Past Medical History:
* Benign prostatic hypertrophy - s/p procedure (?TURP) with 
subsequent urethral bleeding/hematuria  
* Colonic polyps  
* Aspirin induced GI bleed  
* RLE cellulitis w/ residual periankle edema  
* Depression  
* Elevated PSA  
* Hearing loss  
* Seizure disorder  
* Plantar fibroma  
* Appendectomy  
* Cholecystectomy  
* Finger surgery - left middle finger  
.  

 
Social History:
___
Family History:
Father had MI at ___ years old and died of MI at ___ yo. Brother 
died of MI at ___ years old. No family history of diabetes, 
cancer, dementia.  

 
Physical Exam:
ON ADMISSION: 

VS - Temp 97.9F, BP 145/87, HR 63, R 20, O2-sat 95% RA  
GENERAL - Well-appearing man in NAD, comfortable, appropriate; 
large beard, pleasant but slightly dishevelled  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - Supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
- trace periankle edema in RLE  
SKIN - No rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, strength and 
sensation grossly intact

ON DISCHARGE: 
VS -  T 98.4F, BP 126/74, HR 53, RR 18, O2 95% RA
GENERAL - Well-appearing ___ yo M/F who appears comfortable, 
appropriate and in NAD  
HEENT - NC/AT,EOMI, sclerae anicteric
LUNGS - Lungs are clear to ausculatation bilaterally, resp 
unlabored, no accessory muscle use  
HEART - RRR, NL S1-S2, no M/R/G  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no edema
NEURO - awake, A&Ox3, CNs II-XII grossly intact,

 
Pertinent Results:
___ 09:23PM   D-DIMER-84___*
___ 07:30AM   CK-MB-3 cTropnT-<0.01
___ 07:30AM   CK(CPK)-100

CTA Chest w&w/o Contrast: Lower lobe subsegmental pulmonary 
emboli.  No evidence of pulmonary infarction or right heart 
strain at this time. 

ECHO: The left atrium and right atrium are normal in cavity 
size. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). The right ventricular cavity is 
moderately dilated with mild global free wall hypokinesis. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. **IMPRESSION: Dilated right ventricle 
with mild hypokinesis of the right ventricular free wall with 
relative sparing of the apex ___ sign"). Normal 
regional and global left ventricular systolic function. No 
significant valvular abnormality seen.

 
Brief Hospital Course:
# Pulmonary embolism: Hypoxia improved upon arrival to the 
floor, no additional supplemental oxygen requirement. Etiology 
remains unclear, and includes underlying malignancy vs. side 
effects from supplements vs. decreased ambulation recently. Echo 
with ___ Sign (Regional wall motion abnormalities that 
spare the right ventricular apex), consistent with acute PE. He 
was started on heparin on admission, which was converted to 
lovenox. Additionally, he was started on coumadin for long-term 
anticoagulation.
.  
# Supraventricular tachycardia: Resolved; no additional episodes 
on admission. Most likely due to pulmonary embolism. He was seen 
by Dr. ___ in the ED, and will follow-up with him 
on discharge. 
.  
# Seizure disorder: No seizure activity on this admission.  He 
was maintained on his home regimen of dilantin and primidone.   
.  
# BPH: Stable. No active issues on this admission. Home prostate 
health supplements were held on this admission, because they are 
non-formulary. 

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Phenytoin Sodium Extended 200 mg PO QAM 
2. Phenytoin Sodium Extended 100 mg PO QPM 
3. PrimiDONE 250 mg PO QPM 
4. PrimiDONE 500 mg PO QAM 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Enoxaparin Sodium 80 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 80 mg sq twice a day Disp #*28 
Syringe Refills:*0
2. Phenytoin Sodium Extended 200 mg PO QAM 
3. Phenytoin Sodium Extended 100 mg PO QPM 
4. PrimiDONE 250 mg PO QPM 
5. PrimiDONE 500 mg PO QAM 
6. Vitamin D ___ UNIT PO DAILY 
7. Warfarin 5 mg PO DAILY16 
RX *Coumadin 2.5 mg 2 Tablet(s) by mouth daily Disp #*28 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:   Pulmonary embolis
           Supraventricular Tachycardia

Secondary: Seizure disorder
           Benign Prostatic Hypertrophy
  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for treatment of a pulmonary 
embolis. This was seen via CT scan of your lungs. While 
admitted, you were started on anticoagulation with heparin, 
which was later switched to lovenox. Additinally, you were 
started on coumadin, for long-term anticoagulation. The cause of 
the clot in your lung is not clear, but additional work-up by 
your PCP is ___. 

The following changes were made to your medications:
1. Please start taking lovenox 80 mg sub-cutaneous injections 
twice a day.
2. Please start taking coumadin 5 mg by mouth daily.

 
Followup Instructions:
___